US06288086B1
To a stirred solution of bis-(2-chloro-ethyl)-benzyl amine hydrochloride (6.6 g, 24.7 mmol), 18-Crown-6 (500 mg), and anhydrous K2CO3 (30 gm, excess) in dry acetone (250 mL), (4-benzyloxy-phenylsulfonyl)-acetic acid ethyl ester (8.01 gm, 24 mmol) was added in a round bottom flask and the reaction mixture was heated at reflux for 16 hours with good stirring. At the end, the reaction mixture was allowed to cool and the potassium salts were filtered off and the reaction mixture was concentrated. The residue was extracted with chloroform and washed with H2O. The organic layer was further washed well with water, dried over MgSO4, filtered and concentrated. The dark brown reaction mixture was purified by silica gel column chromatography by eluting it with 30% ethylacetate: hexane and the product 4-(4-Benzyloxy-benzenesulfonyl)-1-benzyl-piperidine-4-carboxylic acid ethyl ester was isolated as Brown oil. Yield: 6.5 g, 55%; MS: 494 (M+H)

reactant | bis-(2-chloro-ethyl)-benzyl amine hydrochloride | 24.7 mmol, 6.6 g | Cl.ClCCN(CC1=CC=CC=C1)CCCl
reactant | 18-Crown-6 | 500 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | K2CO3 | 30 gm | C(=O)([O-])[O-].[K+].[K+]
reactant | (4-benzyloxy-phenylsulfonyl)-acetic acid ethyl ester | 24 mmol, 8.01 gm | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C17H18O5S
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 4-(4-Benzyloxy-benzenesulfonyl)-1-benzyl-piperidine-4-carboxylic acid ethyl ester | Yield 21% | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C28H31NO5S
